US07354932B2
To a solution of methyl 4-[(t-butoxycarbonyl)-amino]-4-phenylbut-2-enoate (3.17 g) in methanol (100 mL) was added palladium on carbon (250 mg (10% by wt. Pd)). The mixture was then placed under 50 psig hydrogen gas, and was shaken on a Parr hydrogenator for 2 hours. The mixture was then filtered through celite, concentrated in vacuo and purified by silica gel flash chromatography (3:1 hexanes:ethyl acetate) to afford methyl 4-[(t-butoxycarbonyl)-amino]-4-phenylbutanoate as a pale yellow oil in a yield of 2.61 g (82%). 1H NMR (CDCl3) δ 1.45 (s, 9H), 2.07 (m, 2H), 2.36 (m, 2H), 3.69 (s, 3H), 4.59 (m, 1H), 5.15 (br s, 1H (NH)), 7.21-7.34 (m, 5H).

reactant | methyl 4-[(t-butoxycarbonyl)-amino]-4-phenylbut-2-enoate | 3.17 g | C(C)(C)(C)OC(=O)NC(C=CC(=O)OC)C1=CC=CC=C1 | C16H21NO4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 mL | CO | CH4O
catalyst | palladium on carbon | 250 mg | [Pd] | Pd
product | methyl 4-[(t-butoxycarbonyl)-amino]-4-phenylbutanoate | C(C)(C)(C)OC(=O)NC(CCC(=O)OC)C1=CC=CC=C1 | C16H23NO4
